US07858632B2
To a glass pressure vessel containing 4-chloro-5-(2-isopropyl-4,5-dimethoxy-benzyl)-2-methylsulfanyl-pyrimidine (0.212 g, 0.6 mmol) was added 5.0 mL ethyl amine via a cold finger condenser. The vessel was capped and warmed to 50° C. After 16 hours the solution was cooled to room temperature, evaporated and taken up in H2O. The mixture was extracted with ethyl acetate, washed with H2O and then washed with brine. The combined organic layers were dried over Na2SO4, filtered and evaporated in vacuo. Purification via flash chromatography (4:1 hexane/ethyl acetate) afforded ethyl-[5-(2-isopropyl-4,5-dimethoxy-benzyl)-2-methylsulfanyl-pyrimidin-4-yl]-amine (0.136 g, 63%) as a white solid.

reactant | 4-chloro-5-(2-isopropyl-4,5-dimethoxy-benzyl)-2-methylsulfanyl-pyrimidine | 0.6 mmol, 0.212 g | ClC1=NC(=NC=C1CC1=C(C=C(C(=C1)OC)OC)C(C)C)SC | C17H21ClN2O2S
reactant | ethyl amine | 5.0 mL | C(C)N | C2H7N
product | ethyl-[5-(2-isopropyl-4,5-dimethoxy-benzyl)-2-methylsulfanyl-pyrimidin-4-yl]-amine | 0.136 g, 63% | C(C)NC1=NC(=NC=C1CC1=C(C=C(C(=C1)OC)OC)C(C)C)SC | C19H27N3O2S
